US07247748B2
d) (S)-2-(3-{3-[(2-Chloro-3-(trifluoromethyl)benzyl](2-phenyl-propyl)amino]propoxy}-phenyl)acetic acid hydrochloride salt
To a solution of the (S)-2-(3-{3-[[2-chloro-3-(trifluoromethyl)benzyl](2-phenyl-propyl)amino]propoxy}-phenyl)acetic acid in ethyl ether was added HCl in diethyl ether (1.0M).The suspension was filtered and dried to give the title compound as a white solid (99%). NMR(400 MHz, CD3OD) δ: 8.0 (d, J=4.0Hz, 1H), 7.9 (d, J=4.0Hz, 1H), 7.7–7.3 (m, 7H), 7.1 (d, J=8.0 Hz, 1H), 6.8 (m, 2H), 4.1–3.4 (m, 11H), 2.3 (m, 2H), 1.5 (d, J=4.0 Hz, 3H).

reactant | (S)-2-(3-{3-[[2-chloro-3-(trifluoromethyl)benzyl](2-phenyl-propyl)amino]propoxy}-phenyl)acetic acid | ClC1=C(CN(CCCOC=2C=C(C=CC2)CC(=O)O)C[C@@H](C)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C28H29ClF3NO3
reactant | HCl | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 1.0M | C(C)OCC | C4H10O
product | (S)-2-(3-{3-[(2-Chloro-3-(trifluoromethyl)benzyl](2-phenyl-propyl)amino]propoxy}-phenyl)acetic acid hydrochloride salt | 99% | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)CC(=O)O)C[C@@H](C)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C28H29ClF3NO3.ClH/c1-20(22-9-3-2-4-10-22)18-33(19-23-11-6-13-25(27(23)29)28(30,31)32)14-7-15-36-24-12-5-8-21(16-24)17-26(34)35;/h2-6,8-13,16,20H,7,14-15,17-19H2,1H3,(H,34,35);1H/t20-;/m1./s1
